US05824691
To a solution of 5-(pyrrol-1-yl)-3-methoxycarbonylbenzoic acid (9.37 g) in tetrahydrofuran (100 ml) was added triethylamine (6.4 ml) followed by slow addition of isobutyl chloroformate (5.9 ml) under nitrogen at -40° C. to -30° C. The reaction mixture was stirred below -20° C. for 45 minutes. Then, triethylamine hydrochloride was filtered off and washed with cold tetrahydrofuran, and the filtrate was added as quickly as possible to a suspension of sodium borohydride (4.35 g) in tetrahydrofuran-water (8:1, 80 ml) at 0° C. with vigorous stirring. The stirring was continued at ambient temperature for 5 hours, followed by acidification of the solution to pH 5. The tetrahydrofuran was removed under reduced pressure, and the product was extracted with ethyl acetate. The ethyl acetate extracts were washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (30:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give methyl 3-hydroxymethyl-5-(pyrrol-1-yl)benzoate (7.33 g).

reactant | 5-(pyrrol-1-yl)-3-methoxycarbonylbenzoic acid | 9.37 g | N1(C=CC=C1)C=1C=C(C=C(C(=O)O)C1)C(=O)OC | C13H11NO4
reactant | triethylamine | 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 5.9 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl 3-hydroxymethyl-5-(pyrrol-1-yl)benzoate | 7.33 g | OCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C13H13NO3
